US08193199B2
A mixture of 1-(2-chlorophenyl)propane-1,2-dione (1.2592 g, 6.9 mmol), glacial acetic acid (0.20 mL, 3.4 mmol, 0.5 eq), and bromine (0.35 mL, 6.8 mmol, 1 eq) in CHCl3 (17 mL) was heated at 60° C. for 12 h. The mixture was concentrated under reduced pressure to provide 3-bromo-1-(2-chlorophenyl)propane-1,2-dione as yellow liquid. The yellow liquid was carried on crude without purification for the next step. 1H NMR (CDCl3) δ ppm 7.71 (1H, dd, J=7.8, 1.6 Hz), 7.53-7.59 (1H, m), 7.40-7.49 (2H, m), 4.52 (2H, s). Mass Spectrum (ESI) m/e=261.0 [M+1 (79Br)] and 262.9 [M+1 (81Br)].

reactant | 1-(2-chlorophenyl)propane-1,2-dione | 6.9 mmol, 1.2592 g | ClC1=C(C=CC=C1)C(C(C)=O)=O | C9H7ClO2
reactant | acetic acid | 3.4 mmol, 0.20 mL, 0.5 eq | C(C)(=O)O | C2H4O2
reactant | bromine | 6.8 mmol, 0.35 mL, 1 eq | BrBr | Br2
solvent | CHCl3 | 17 mL | C(Cl)(Cl)Cl | CHCl3
product | 3-bromo-1-(2-chlorophenyl)propane-1,2-dione | BrCC(C(=O)C1=C(C=CC=C1)Cl)=O | C9H6BrClO2
